US09376418B2
Methanol (5.00 mL) and HCl (4 M in dioxanes, 0.584 mL, 2.34 mmol) were added to (R)—N-{dicyclopropyl[5-(3-methyl-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)pyridin-2-yl]methyl}-2-methylpropane-2-sulfinamide (317.5 mg, 0.584 mmol) and the reaction mixture was stirred for 25 minutes at room temperature. An additional 150 uL of 4 M HCl in dioxane was added to the reaction mixture, stirred for 45 minutes, diluted with saturated aqueous NaHCO3 (20.0 mL) and extracted with ethyl acetate (30.0 mL). The organic layer was washed with brine, dried over sodium sulfate, filtered, and was concentrated under reduced pressure to yield N-(3-{6-[amino(dicyclopropyl)methyl]pyridin-3-yl}-5-methylphenyl)-4-(trifluoromethyl)pyrimidin-2-amine. MS APCI calc'd for C24H25F3N5 [M+H]+ 440. found 440.

reactant | Methanol | 5.00 mL | CO | CH4O
reactant | HCl | 2.34 mmol, 4 M, 0.584 mL | Cl | ClH
reactant | (R)—N-{dicyclopropyl[5-(3-methyl-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)pyridin-2-yl]methyl}-2-methylpropane-2-sulfinamide | 0.584 mmol, 317.5 mg | C1(CC1)C(N[S@](=O)C(C)(C)C)(C1=NC=C(C=C1)C1=CC(=CC(=C1)NC1=NC=CC(=N1)C(F)(F)F)C)C1CC1 | C28H32F3N5OS
reactant | HCl | 4 M, 150 uL | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | NaHCO3 | 20.0 mL | C(=O)(O)[O-].[Na+]
product | N-(3-{6-[amino(dicyclopropyl)methyl]pyridin-3-yl}-5-methylphenyl)-4-(trifluoromethyl)pyrimidin-2-amine | NC(C1=CC=C(C=N1)C=1C=C(C=C(C1)C)NC1=NC=CC(=N1)C(F)(F)F)(C1CC1)C1CC1 | C24H24F3N5
